US07005432B2
5-(7-Difluoromethyl-naphthalen-2-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=351.3 (M+H+), was prepared from 2-(7-difluoromethyl-naphthalen-2-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-(7-difluoromethyl-naphthalen-2-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC(C1=CC=C2C=CC(=CC2=C1)B1OC(C(O1)(C)C)(C)C)F | C17H19BF2O2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(7-Difluoromethyl-naphthalen-2-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.FC(C1=CC=C2C=CC(=CC2=C1)C=1C=C(N=NC1)CN1C(=NC=C1)C)F | InChI=1S/C20H16F2N4.ClH/c1-13-23-6-7-26(13)12-19-10-18(11-24-25-19)15-4-2-14-3-5-16(20(21)22)9-17(14)8-15;/h2-11,20H,12H2,1H3;1H
